US05866685
N-BOC-α-phenylglycine, methyl ester (1.2 g) is dissolved in methanol (50 ml) containing acetic acid (1 ml). 5% rhodium on aluminum powder (0.60 g) is added and the mixture shaken under 50 psi hydrogen for about 18 hours. The mixture is filtered, evaporated in vacuo, and the residue taken up into ethyl acetate. The organic solution is washed with water, saturated sodium bicarbonate solution, water, brine, dried over magnesium sulfate, filtered, evaporated in vacuo to give N-BOC-α-cyclohexylglycine, methyl ester.

reactant | N-BOC-α-phenylglycine, methyl ester | 1.2 g | C(=O)(OC(C)(C)C)NC(C(=O)OC)C1=CC=CC=C1 | C14H19NO4
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | rhodium | [Rh] | Rh
product | N-BOC-α-cyclohexylglycine, methyl ester | C(=O)(OC(C)(C)C)NC(C(=O)OC)C1CCCCC1 | C14H25NO4
